Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / tetanus toxoid, adsorbed
 
Attending: ___.
 
Chief Complaint:
Left foot pain
 
Major Surgical or Invasive Procedure:
Incision and drainage of left foot abscess with gram stain of 
abscess fluid growing gram-positive cocci in clusters, not 
speciated at time of discharge.

 
History of Present Illness:
Patient is a ___ man with h/o DM, HTN, HLD, NASH, and recurrent 
cellulitis/abscesses who presented with a left foot infection 
s/p I&D in the ED and admitted for IV antibiotics. Patient 
reports that 1 week ago, he felt a scratch from something like a 
pebble in his shoe. When he took his shoe off, he noticed a 
small open cut on the plantar surface of his left foot. He noted 
it was pruritic and was scratching it throughout the day. The 
next morning he noticed redness around the cut and said it had 
turned into a painful boil. Over the next two days, he was 
unable to walk due to the pain and he admitted to dull bifrontal 
headache as well. He went to the ___ ED where he was determined 
to have an abscess that was drained and he was discharged on 
ciprofloxacin 500mg BID. 

Since discharge from ___, he has been doing well, with stable 
but not increasing pain, no redness or purulent drainage from 
the site of the I&D, and no spreading erythema. He does admit to 
some swelling of his left foot and ankle, but has full range of 
motion. He says he has had a h/o abscesses thoughout his life, 
including on his ear, over his chest, and on his testicle as 
well as cellulitis over his wrists. He denies any fevers/chills, 
nausea/vomiting, SOB/CP, abdominal pain, or any other joint 
pains. He does admit to a fungal rash over his right chest and 
shoulder for which he uses nystatin cream.

In the ED, initial VS: T 98.2 HR 79 BP 135/90 RR 16 O2Sat 99%RA. 
Labs were remarkable for Hct 37.6, BG 312. L foot XR showed soft 
tissue swelling, no osteomyelitis. Podiatry was consulted, and 
I&D was performed. Wound cultures and blood cultures were sent. 
Patient was given vanc, cipro, flagyl, and tylenol. 
 
On the floor, VS: T 97.9 HR 66 BP 121/73 RR 16 O2Sat 97%RA. He 
was given one dose of IV vancomycin 1g and one dose of oxycodone 
5mg for pain.
 
Past Medical History:
DM  
HTN  
HLD  
Sleep apnea    
Steatohepatitis
PTSD/Depression  
OCD  
Asthma: Multiple ED visits. No hospitalizations at ___. PFT 
___ -mild OVD with good BD response. Baseline peak flow ~650.  

Thalessemia trait with splenomegaly 

 
Social History:
___
Family History:
The patient states his mother, father, and 4 brothers have a
history of alcohol dependence.  He states two of his brothers 
suffer from depression and 1 committed suicide.

 
Physical Exam:
ADMISSION:
Vitals- 98.1 122/71 71 18 99%RA  
General- Alert, oriented, flat affect but pleasant, NAD  
HEENT- Sclera anicteric, MMM  
Neck- supple, JVP low, no LAB  
Lungs- Clear to auscultation bilaterally, moving air well and 
symmetrically, no wheezes, rales or ronchi  
CV- Regular rate and rhythm, S1 + S2 clear and of good quality, 
no murmurs, rubs, gallops appreciated  
Abdomen- soft, non-tender, non-distended, normoactive bowel 
sounds Ext- warm, well perfused, 2+ pulses, no clubbing, 
cyanosis or edema. ON plantar aspect of left lateral foot there 
is a small 2 cm linear superficial incision without expressible 
fluid. It is tender to palpatin, there is no surrounding 
erythema but is slightly indurated. No warm to touch. There is a 
surrounding area of hypopigmentation encircling lesion.  
Neuro- CNs2-12 intact, motor function grossly normal, sensation 
in feet intact. 

DISCHARGE:
VS: Tm 98.1 Tc 97.7 BP 107/56 (107-122/56-71) HR 66 (66-71) RR 
18 O2Sat 96-99%RA
General: NAD, comfortable
HEENT: NCAT, PERRL, EOMI, OP clear, MMM  
Neck: supple, no LAD, no masses  
CV: RRR, normal S1/S2, no murmurs 
Lungs: CTAB, no wheezing or crackles
Chest: ring-like tan-colored splotchy macular rash with 
irregular borders over right shoulder and chest
Abdomen: soft, non-tender, non-distended, +BS, liver and spleen 
no palpable 
Ext: clean, dry incision from I&D over plantar surface of left 
foot with surrounding yellowing, erythema and warmth, no 
induration, fluctuance, purulence, pain on palpation. 1+ 
non-pitting edema around L ankle, not tender to palpation, no 
erythema or warmth, full range of passive and active motion    
Neuro: A&Ox3, no focal deficits
 
Pertinent Results:
ADMISSION:

___ 04:40PM BLOOD WBC-7.3 RBC-6.43* Hgb-12.5* Hct-37.6* 
MCV-59* MCH-19.4* MCHC-33.1 RDW-14.7 Plt ___
___ 04:40PM BLOOD Neuts-60.0 ___ Monos-4.5 Eos-2.5 
Baso-0.8
___ 04:40PM BLOOD Plt ___
___ 04:40PM BLOOD Glucose-312* UreaN-14 Creat-0.8 Na-133 
K-4.1 Cl-102 HCO3-29 AnGap-6*
___ 05:02PM BLOOD Lactate-1.6

Left foot XR (___): Soft tissue swelling without 
radiographic evidence of osteomyelitis.  Focal lucency/gas 
projecting over the soft tissues adjacent to the ___ metatarsal 
head could be related to recent incision and drainage but 
clinical correlation is suggested.

DISCHARGE:

___ 08:35AM BLOOD WBC-7.0 RBC-6.07 Hgb-11.6* Hct-35.6* 
MCV-59* MCH-19.1* MCHC-32.5 RDW-14.7 Plt ___
___ 08:35AM BLOOD ___
___ 08:35AM BLOOD Plt ___
___ 08:35AM BLOOD Glucose-171* UreaN-15 Creat-0.7 Na-140 
K-4.0 Cl-105 HCO3-26 AnGap-13
___ 08:35AM BLOOD Calcium-8.7 Phos-4.0 Mg-1.___SSESSMENT AND PLAN:
___ man with h/o DM, HTN, HLD, ___, and recurrent 
cellulitis/abscesses who presented with a left foot infection 
s/p I&D in the ED and admitted for IV antibiotics  

Active Issues
# Abscess/cellulitis: likely ___ to cut and open wound on 
plantar surface of left foot from 1 week ago. Treated at ___ ED 
with I&D and ciprofloxacin likely due to diabetes and 
predisposition for GNR infection; however, no gram positive 
coverage given. Abscess did not resolve and presented to ___ 
ED with left foot pain, now s/p I&D, IV vanc/cipro/flagyl. Low 
suspicion for osteomyelitis given superficial abscess, no 
tenderness to palpation of metatarsals or ankle, full range of 
passive/active motion. Some slight erythema and warmth 
surrounding incision site, but no induration, fluctuance, or 
purulence. Abscess fluid culture sent and growing GPCs in 
clusters, this most likely represents staph and patient has 
history of MSSA abscess but ___ years prior. Blood cultures 
pending. Hemodynamically stable, meeting ___ SIRS criteria, low 
suspicion for sepsis, but received 1L NS bolus. Will cover with 
PO clindamycin for MRSA, GPCs given penicillin allergy. Received 
oxycodone for pain.
- Continue clindamycin 300mg PO TID for 10 days
- Follow-up wound/blood cultures 

Chronic Issues
# Diabetes Mellitus: Chronic DMII, followed at ___, insulin 
dependent and poorly controlled with last HbA1c of 11.6%, 
complicated by peripheral neuropathy.  
- Continue home insulin regimen  
 
# HTN: Chronic, stable and admitted in good control  
- Continue Lisinopril 2.5 mg PO DAILY  
 
# HLD: Chronic, stable, patient no longer taking fish oil or 
fenofibrate  
 
# Psych: Chronic, recently hospitalized at ___ for depression 
this past ___. Currently denies SI. Patient no longer taking 
Sertraline 100 mg PO DAILY or ClonazePAM 0.5 mg PO TID  
- Continue MethylPHENIDATE (Ritalin) 10 mg PO BID   
 
# OSA: Chronic, stable, not using CPAP at home  
 
# FEN: IVFs, replete electrolytes, Diabetic diet  
# PPX: Heparin sq, senna/colace, pain meds (no acetominophen)  
# ACCESS: PIV
# CODE: Full  
# CONTACT: ___ (mother) ___  

# Transitonial Issues: Plan for patient to be discharged home on 
PO antibiotics covering for MRSA and GPCs.
- Follow-up with PCP ___ 1 week.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 300 mg PO TID 
2. Aspart 30 Units Breakfast
Aspart 30 Units Lunch
Aspart 30 Units Dinner
Levemir 30 Units Breakfast
Levemir 30 Units Dinner
Insulin SC Sliding Scale using Aspart Insulin
3. Lisinopril 2.5 mg PO DAILY 
4. MethylPHENIDATE (Ritalin) 10 mg PO BID 
5. Nystatin 100,000 units/g topical cream BID
 
Discharge Medications:
1. Gabapentin 300 mg PO TID 
2. Aspart 30 Units Breakfast
Aspart 30 Units Lunch
Aspart 30 Units Dinner
Levemir 30 Units Breakfast
Levemir 30 Units Dinner
Insulin SC Sliding Scale using Aspart Insulin
3. Lisinopril 2.5 mg PO DAILY 
4. MethylPHENIDATE (Ritalin) 10 mg PO BID 
5. Clindamycin 300 mg PO Q8H Duration: 10 Days 
RX *clindamycin HCl 300 mg 1 capsule(s) by mouth q8 Disp #*27 
Capsule Refills:*0
6. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN Pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left foot abscess and cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the ___ inpatient medicine service for an 
infection and abscess on your left foot. An incision and 
drainage was performed in the ED and you were treated with IV 
antibiotics. Your vital signs were stable throughout your 
admission and you never had a fever. You were discharged on oral 
antibiotics (clindamycin 300mg) that you should continue taking 
3 times per day for 10 days. 

You should follow-up with your PCP ___ 2 weeks.
 
Followup Instructions:
___